Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1],7.7342152200699985
[C:6]([H:7])[H:8].[H:1][O:2][C@@:3]([H:4])([O:5])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.0630618446
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:6],4.38795636074
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.20131195936
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],2.96576426999
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-8.234688
[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.0740769702807
[H:10].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:11][H:12]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.6767978904
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],1.55763931616
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4].[O:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.31929654186
[H:1][C:2]([H:3])=[C:4][H:5].[O:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11],-3.47506889072
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7](=[O:8])[C:10]([H:11])([H:12])[H:13].[H:9],0.919395906376
[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11][H:12]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-5.151308161559999
[H:1][O:2][C:3]([H:4])([C:5]#[C:6][H:7])[O:9][H:10].[H:8]>>[H:1][O:2][C:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-2.12244554121
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-6.434603041749999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.87006217391
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1],4.16519377314
[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-6.59621910145
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9],3.9242542237
[C:1].[C:2](=[C:3](\[H:4])[O:5][C:6][H:7])\[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.84916246032
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5],4.82868672366
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2],3.18217710495
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:10].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])[H:9])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.51772441809
[H:1]/[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-3.20492744025
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.59824895042
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4],-0.6144204548300001
[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.9632125765
